US04225701
(f) 6.15-Diamino-5,16-diethyleicosane
The 1,2-diaza-1,5,9-cyclododecatriene and 1,2-diazacyclododecane, used as starting products, can be produced by the methods described in the German Offenlegungsschriften Nos. 2,330,087 and 2,549,403.

reactant | 1,2-diaza-1,5,9-cyclododecatriene | N1=NCCC=CCCC=CCC1 | C10H16N2
reactant | 1,2-diazacyclododecane | N1NCCCCCCCCCC1 | C10H22N2
product | 6.15-Diamino-5,16-diethyleicosane | NC(C(CCCC)CC)CCCCCCCCC(C(CCCC)CC)N | C24H52N2
